US05624935
5-{4-(5-Isopropoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}thiazolidine-2,4-dione (Compound No.1-183)
A procedure similar to that described in Example 12 was repeated, except that 0.78 g of 5-{4-(5-isopropoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 103) was treated with 12 ml of a 3:1 by volume mixture of acetic acid and water. After working up the product as described in Example 12, the resulting crude product was crystallized by trituration with ethyl acetate, to give 0.40 g of the title compound, melting at 210°-212° C.

reactant | 5-{4-(5-isopropoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 0.78 g | C(C)(C)OC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C40H36N4O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-{4-(5-Isopropoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}thiazolidine-2,4-dione | 0.40 g | C(C)(C)OC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2)C | C21H22N4O4S
